US08609653B2
An ice cold suspension of 2-amino-4-bromo-6-fluoro-3-methylphenol (647 mg) and potassium carbonate (1.526 g, 11.04 mmol) in N,N-Dimethylformamide (DMF) (10 mL) was treated by dropwise addition of 2-bromoacetyl bromide (0.320 mL, 3.67 mmol). The mixture was stirred at ambient temperature for 2 hours. The mixture was treated slowly with water (10 mL+10 mL), then poured into water (50 mL) and stirred to form a suspension which was passed through a fine glass frit and dried in vacuo to give the crude product as a yellow solid. The solid was washed with cold isopropanol and dried in vacuo to provide 6-bromo-8-fluoro-5-methyl-2H-benzo[b][1,4]oxazin-3(4 H)-one (510 mg) as a light brown solid. 1H NMR (400 MHz, CHLOROFORM-d) d=7.83 (br. s., 1 H), 7.10 (d, J=9.6 Hz, 1 H), 4.65 (s, 2 H), 2.30 (s, 3 H). LC/MS (m/z) ES+=259.99 (M+1).

reactant | 2-amino-4-bromo-6-fluoro-3-methylphenol | 647 mg | NC1=C(C(=CC(=C1C)Br)F)O | C7H7BrFNO
reactant | potassium carbonate | 11.04 mmol, 1.526 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoacetyl bromide | 3.67 mmol, 0.320 mL | BrCC(=O)Br | C2H2Br2O
reactant | water | 10 mL | O | H2O
reactant | water | 50 mL | O | H2O
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-bromo-8-fluoro-5-methyl-2H-benzo[b][1,4]oxazin-3(4 H)-one | 510 mg | BrC1=C(C2=C(OCC(N2)=O)C(=C1)F)C | C9H7BrFNO2
